US05036157
Preparation of N-(4-Benzyloxybenzyl)-N-(t-butylcarbonyloxy)acetamide
Pivaloylchloride (1.36 ml) was added dropwise to a solution of N-(4-benzyloxybenzyl)acetohydroxamic acid (2.71 g) and triethylamine (1.7 ml) in methylene dichloride (15 ml) and dimethylaminopyridine (100 ml). The mixture was stirred for 2 hours at room temperature, then neutral material was isolated with ether. The product, N-(4-(Benzyloxybenzyl)-N-(t-butylcarbonyloxy)acetamide, was a colourless oil.

reactant | Pivaloylchloride | 1.36 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N-(4-benzyloxybenzyl)acetohydroxamic acid | 2.71 g | C(C1=CC=CC=C1)OC1=CC=C(CN(O)C(C)=O)C=C1 | C16H17NO3
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | methylene dichloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylaminopyridine | 100 ml | CN(C)C1=NC=CC=C1 | C7H10N2
product | N-(4-Benzyloxybenzyl)-N-(t-butylcarbonyloxy)acetamide | C(C1=CC=CC=C1)OC1=CC=C(CN(C(C)=O)OC(=O)C(C)(C)C)C=C1 | C21H25NO4
